US04160841
A mixture of 10 parts of 2-(4-methoxyphenyl)hydrazinecarbothioamide, 10.6 parts of methanimidamide acetate and 80 parts of 1-butanol is stirred and refluxed for 1 hour. After cooling, water and 2,2'-oxybispropane are added, whereupon the product is precipitated. It is filtered off and dried, yielding 7.6 parts (73%) of 1-(4-methoxyphenyl)-1H-1,2,4-triazole-3-thiol.

reactant | 2-(4-methoxyphenyl)hydrazinecarbothioamide | COC1=CC=C(C=C1)NNC(N)=S | C8H11N3OS
reactant | methanimidamide acetate | C(C)(=O)O.C(N)=N
reactant | 1-butanol | C(CCC)O | C4H10O
reactant | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
solvent | water | O | H2O
product | 1-(4-methoxyphenyl)-1H-1,2,4-triazole-3-thiol | 73% | COC1=CC=C(C=C1)N1N=C(N=C1)S | C9H9N3OS
